US06013658
N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (0.92 g, 4.82 mmol) and 1-hydroxybenzotriazole monohydrate (0.74 g, 4.83 mmol) were added to a solution of N-tertbutoxycarbonyl-3-aminobenzoic acid (1.21 g, 4.82 mmol) in N,N-dimethylformamide (15 ml). After 1 h at 20° C. a mixture of (2R)-2-amino-N-[(1R)-1-(3-methyl-[1,2,4]oxadiazol-5-yl)-2-phenylethyl]-3-(2-naphthyl)propionamide hydrochloride (1.50 g, 3.43 mmol) and triethylamine (0.35 g, 3.46 mmol) in N,N-dimethylformamide (15 ml) were added. After 18 h at 20° C. the reaction mixture was poured on ice water (180 ml) and extracted several times with dichloromethane (total 180 ml). The organic phases were collected and washed with aqueous citric acid (10%, 25 ml), a saturated solution of sodium hydrogencarbonate (3×25 ml) and water (3×25 ml). After drying (magnesium sulfate) the solution was concentrated in vacuo and 1.80 g of (3-{(1R)-1-[(1R)-1-(3-methyl-[1,2,4]oxadiazol-5-yl)-2-phenylethylcarbamoyl]-2-(2-naphthyl)ethylcarbamoyl}-benzyl)carbamic acid tertbutyl ester was isolated from ethyl acetate.

reactant | N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 4.82 mmol, 0.92 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole monohydrate | 4.83 mmol, 0.74 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-tertbutoxycarbonyl-3-aminobenzoic acid | 4.82 mmol, 1.21 g | C(C)(C)(C)OC(=O)NC=1C=C(C(=O)O)C=CC1 | C12H15NO4
reactant | (2R)-2-amino-N-[(1R)-1-(3-methyl-[1,2,4]oxadiazol-5-yl)-2-phenylethyl]-3-(2-naphthyl)propionamide hydrochloride | 3.43 mmol, 1.50 g | Cl.N[C@@H](C(=O)N[C@H](CC1=CC=CC=C1)C1=NC(=NO1)C)CC1=CC2=CC=CC=C2C=C1
reactant | triethylamine | 3.46 mmol, 0.35 g | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | (3-{(1R)-1-[(1R)-1-(3-methyl-[1,2,4]oxadiazol-5-yl)-2-phenylethylcarbamoyl]-2-(2-naphthyl)ethylcarbamoyl}-benzyl)carbamic acid tertbutyl ester | 1.80 g | C(C)(C)(C)OC(NCC1=CC(=CC=C1)C(N[C@H](CC1=CC2=CC=CC=C2C=C1)C(N[C@H](CC1=CC=CC=C1)C1=NC(=NO1)C)=O)=O)=O | C37H39N5O5
